US05451343
6-Hydroxy-3-methoxyxanthone
7.0 g (30.7 mmol) of 3,6-dihydroxyxanthone is dissolved in aq. NAOH (2.5 g(62.5 mmol) in 200 mls H2O). 3.2 mls (33.6 mmol) of dimethylsulfate is added dropwise with stirring, and solid forms immediately upon completion. Stirred further 1 hour and heated to reflux for 15 minutes. Additional base is added to insure complete solubility of phenols. The solution is acidified with HCl, and filtration yields a mixture of staring material and the target compound. Solid is heated to reflux in about 200 mls ethanol for 15 minutes to dissolve starting material, and solid is filtered out, washing with ethanol and water. This may have to be repeated several times to obtain pure compound in about 50% yield; mp=303-306-C.NMR (200 MHZ in d-DMSO) s 3.89 (3H,s), 6.82 (1H,d,J=2.24 Hz), 6.87 (1H,m), 6.99 (1H,dd,J=8.78 Hz, 2.20 Hz),, 7.09 (1H,d,J=2.26Hz), 7.99 (1H,d,J=8.52 Hz), 8.03 (1H,d,J=8.78Hz).

reactant | 3,6-dihydroxyxanthone | 30.7 mmol, 7.0 g | OC=1C=CC=2C(C3=CC=C(C=C3OC2C1)O)=O | C13H8O4
reactant | dimethylsulfate | 33.6 mmol, 3.2 mls | COS(=O)(=O)OC | C2H6O4S
solvent | H2O | 200 mls | O | H2O
solvent | ethanol | about 200 mls | C(C)O | C2H6O
product | 6-Hydroxy-3-methoxyxanthone | about 50% yield | OC=1C=C2OC=3C=C(C=CC3C(C2=CC1)=O)OC | C14H10O4
